US06133271
Following the procedure of Example 97, the reaction of 1,2,4-triazole with 2-chloro-5,6,7,8-tetrahydro-4-(3,4-ethylendioxybenzylamino)-[1]-benzothieno-[2,3-d]-pyrimidine gives 2-(1,2,4-triazol-1-yl)-5,6,7,8-tetrahydro-4-(3,4-ethylendioxybenzylamino)-[1]-benzothieno-[2,3-d]-pyrimidine.

reactant | 1,2,4-triazole | N1N=CN=C1 | C2H3N3
reactant | 2-chloro-5,6,7,8-tetrahydro-4-(3,4-ethylendioxybenzylamino)-[1]-benzothieno-[2,3-d]-pyrimidine | ClC=1N=C(C2=C(N1)SC1=C2CCCC1)NCC1=CC2=C(C=C1)OCCO2 | C19H18ClN3O2S
product | 2-(1,2,4-triazol-1-yl)-5,6,7,8-tetrahydro-4-(3,4-ethylendioxybenzylamino)-[1]-benzothieno-[2,3-d]-pyrimidine | N1(N=CN=C1)C=1N=C(C2=C(N1)SC1=C2CCCC1)NCC1=CC2=C(C=C1)OCCO2 | C21H20N6O2S
